US06037342
1-Allyl-1-methyl -4-(5-chlorobenzoxazol-2-yl)piperazinium iodide
A 30 mg portion of 5-chloro-2-(4-methyl-1-piperazinyl)benzoxazole was dissolved in 5 ml of DMF, and the solution which was stirred at room temperature was mixed with 100 mg of allyl iodide and then stirred for 12 hours. The solvent was evaporated under a reduced pressure, and the thus obtained mixture was purified by an LH-20 gel chromatography (chloroform:methanol=1:1) to obtain the title compound (36 mg) in light yellow color.

reactant | 5-chloro-2-(4-methyl-1-piperazinyl)benzoxazole | ClC=1C=CC2=C(N=C(O2)N2CCN(CC2)C)C1 | C12H14ClN3O
reactant | allyl iodide | 100 mg | C(C=C)I | C3H5I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-Allyl-1-methyl -4-(5-chlorobenzoxazol-2-yl)piperazinium iodide | 36 mg | [I-].C(C=C)[N+]1(CCN(CC1)C=1OC2=C(N1)C=C(C=C2)Cl)C | InChI=1S/C15H19ClN3O.HI/c1-3-8-19(2)9-6-18(7-10-19)15-17-13-11-12(16)4-5-14(13)20-15;/h3-5,11H,1,6-10H2,2H3;1H/q+1;/p-1
